US05169431
A mixture of 2-chloro-4-fluoro-5-nitrophenol (20.3 g) and 2,3-dichloropropene (11.7 g) was dissolved in N,N-dimethylformamide (200 ml), and potassium carbonate (14.6 g) was added thereto at room temperature, and the resultant mixture was stirred at 80° C. for 2 hours. After cooling to room temperature, the reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with water, dried and concentrated. The residue was purified by silica gelchromatography (eluent: hexane/ethyl acetate=4/1) to give 4-chloro-5-(2-chloro-2-propenyloxy)2-fluoronitrobenzene (14.8 g; yield, 53%).

reactant | 2-chloro-4-fluoro-5-nitrophenol | 20.3 g | ClC1=C(C=C(C(=C1)F)[N+](=O)[O-])O | C6H3ClFNO3
reactant | 2,3-dichloropropene | 11.7 g | ClC(=C)CCl | C3H4Cl2
reactant | potassium carbonate | 14.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 4-chloro-5-(2-chloro-2-propenyloxy)2-fluoronitrobenzene | 14.8 g, 53% | ClC1=CC(=C(C=C1OCC(=C)Cl)[N+](=O)[O-])F | C9H6Cl2FNO3
